US08003649B2
Trifluoroacetic acid (15 mL, 194.70 mmol) was added to a mixture of tert-butyl 5-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (3 g, 7.53 mmol) and dichloromethane (60 mL). The resulting solution was stirred at ambient temperature for 1 hour and then evaporated to leave an involatile residue. The residue was purified by ion-exchange chromatography on an SCX column using aqueous ammonia (7M) in methanol as eluant to give 6-(hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (2.200 g, 98%) as a white solid that was used without further purification.

reactant | Trifluoroacetic acid | 194.70 mmol, 15 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 5-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 7.53 mmol, 3 g | FC(C1=NN=C2N1N=C(C=C2)N2CC1C(C2)CN(C1)C(=O)OC(C)(C)C)(F)F | C17H21F3N6O2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 6-(hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 2.200 g, 98% | C1N(CC2C1CNC2)C=2C=CC=1N(N2)C(=NN1)C(F)(F)F | C12H13F3N6
